2191-11-24 06:55:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   Demand
   Ischemia/Dyspnea
   24 Hour Events:
   GNR bactermia but decided to keep HD line in. ECHO with PFO/intraatrial
   septum aneurysm but normal biventricular function, so CSURG planning
   for CABG and fixing of intraarterial septum.
   Allergies:
   Hydralazine
   Nausea/Vomiting
   Opioid Analgesics
   Confusion/Delir
   Compazine (Injection) (Prochlorperazine Edisylate)
   Confusion/Delir
   Last dose of Antibiotics:
   Piperacillin - [**2191-11-23**] 12:17 PM
   Piperacillin/Tazobactam (Zosyn) - [**2191-11-24**] 12:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Heparin Sodium - 800 units/hour
   Other ICU medications:
   Other medications:
   Midazolam 3mg/m
   Levothyroxine 100mcg
   CCI
   Heparin gtt
   ASA 300mg PR
   Chlorhexidine oral rinse
   Phenylephrine gtt
   Zosyn 2.25 q12hrs
   Nephrocaps
   Lansoprazole 30mg
   Holding Amlodipine, Lisinopril, Losartan, Lopressor,
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   GEN: Intubated.  Responds to commands.  Breathing comfortably on vent.
     CV: RRR. nl S1 S2.  II/VII holosystolic murmur at LUSB without
   radiatation to carotids.
      P: Good airation bilaterally.  Diffuse ralles.
    ABD: S NT ND
    EXT: 1+ edema
   NEUR: PERRL, EOMI, (+) cough & gag.  Moves all four extremities with
   command with grossly normal strength and sensation.
   Flowsheet Data as of  [**2191-11-24**] 06:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37
C (98.6
   HR: 64 (64 - 81) bpm
   BP: 101/32(48) {83/32(48) - 131/86(98)} mmHg
   RR: 16 (14 - 21) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 59 Inch
             Total In:
                                                                    741 mL
                                                                    239 mL
   PO:
             TF:
   IVF:
                                                                    741 mL
                                                                    239 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    741 mL
                                                                    239 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 428 (428 - 428) mL
   RR (Set): 16
   RR (Spontaneous): 1
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 22 cmH2O
   Plateau: 18 cmH2O
   Compliance: 38.5 cmH2O/mL
   SpO2: 99%
   ABG: 7.42/45/70/23/3
   Ve: 4.6 L/min
   PaO2 / FiO2: 140
   Physical Examination
   Labs / Radiology
   337 K/uL
   9.7 g/dL
   96 mg/dL
   6.1 mg/dL
   23 mEq/L
   3.8 mEq/L
   40 mg/dL
   101 mEq/L
   143 mEq/L
   30.0 %
   20.0 K/uL
        [image002.jpg]
                            [**2191-11-22**]  02:33 PM
                            [**2191-11-22**]  04:20 PM
                            [**2191-11-22**]  05:08 PM
                            [**2191-11-22**]  06:00 PM
                            [**2191-11-22**]  10:18 PM
                            [**2191-11-22**]  10:37 PM
                            [**2191-11-23**]  05:35 AM
                            [**2191-11-23**]  05:40 AM
                            [**2191-11-23**]  03:43 PM
                            [**2191-11-24**]  03:31 AM
   WBC
   19.1
   18.3
   21.3
   20.0
   Hct
   31.1
   29.9
   30.0
   30.0
   Plt
   365
   340
   366
   337
   Cr
   4.6
   6.1
   TropT
   3.40
   3.40
   TCO2
   27
   28
   28
   27
   30
   Glucose
   104
   114
   96
   Other labs: PT / PTT / INR:20.7/51.4/2.0, CK / CKMB /
   Troponin-T:56//3.40, ALT / AST:20/22, Alk Phos / T Bili:119/0.3,
   Differential-Neuts:93.2 %, Lymph:2.7 %, Mono:3.8 %, Eos:0.1 %, Lactic
   Acid:0.9 mmol/L, LDH:352 IU/L, Ca++:8.1 mg/dL, Mg++:2.2 mg/dL, PO4:4.4
   mg/dL
   Assessment and Plan
   74 yo W with PMH of DM, ESRD on HD, CVA, HTN presents with NSTEMI and
   pulmonary edema in setting of GNR bacteremia.
   CORONARIES:  Appears to have demand ischemia given infection.
   Originally thought to be NSTEMI based on elevated troponin well above
   baseline and new LBBB with ST elevations under criteria for STEMI in
   LBBB.  Given cath with severe flow-limiting lesions that appear
   chronic, more likely to be demand ischemia, especially given
   bacteremia.  Lesions on cath not amenable to PCI and will likely need
   CABG.
   - C-[**Doctor First Name 458**] evaluation for CABG, but likely will be > 7 days away.
   - Trend CKs to peak
   - continue ASA, statin
   - start ACE-I and bblocker once BP and HR tolerate
   - ck lipid panel for risk reduction with goal LDL < 70
   - resume coumadin as will need bacteremia fully treated prior to
   surgery.
   PUMP: Evidence of pulmonary edema on CXR, likely source of SOB and
   hypoxemia in setting of acute infarct. Will not exclude pulmonary
   source of infection given chills and leukocytosis and large A-a
   gradient.  Patient is hypertensive at baseline on metoprolol 150 mg PO
   BID, Losartan 100 mg DAILY, Amlodipine 10 mg, Minoxidil 10 mg PO QAM,
   and Lisinopril 40 mg DAILY at home.  Hypotensive s/p 1.9 L IVF
   removal.  Likely with diastolic dysfunction and preload dependency.
   Given bacteremia, may need generous IVF resuscitation.
   - eval with ECHO today
   - Will support blood pressure with IVF
   - Wean neosynepherin
   - Hold blood pressure lowering medications for now
   RHYTHM: NSR currently, but had 2 episodes of SVT associated with
   hypotension to SBPs of 60.  The episode started with APB, had
   prolonging PR intervals and ended with an atrial pause, with HR around
   150.  Ddx includes A-tach and AVNRT.
   - continue monitor on TELE
   - add beta-blockade when pressure tolerates
   HYPOXIC RESPIRATORY FAILURE:  Patient intubated in for acute
   respiratory distress.  Has high FiO2 requirement and large A-a
   gradient.  CXR shows volume overload and possible developing
   infiltrate.
   - Abx with vanc and zosyn for HAP coverage.  Follow sputum culture
   - Fluid goal even, may need to diurese to compensate for obligate IVF.
   - daily CXR
   - Wean FiO2 as tolerated, consider increasing PEEP if pressure
   tolerates.
   BACTEREMIA: Chills during HD and low grade temp, along with elevated
   WBC and left count.  Possible sources include pulmonary and skin from
   indwelling HD line.  GNR in blood cultures
   - Vanc/Zosyn
   - daily blood cultures
   - Zosyn to meropenem if worsening for ESBL coverage.  No h/o pip-tazo
   resistance
   - will attempt to treat through bacteremia, but may need to pull line
   if GNR are pseudomonas or other difficult organisms.
   ANION GAP ACIDOSIS: Likely secondary to uremia. Lactate normal
   - HD today
   - monitor lytes
   ESRD on HD:
   - dialysis
   - goal even
   - f/u renal recs
   - continue nephrocaps and calcium acetate
   DIABETES: Would aim for tight glucose control given sepsis picture.
   - Hold glipizide
   - ISS for now
   HISTORY OF STROKE:  Per family, patient has no residual deficits.  On
   coumadin at home.
   - monitor PT/INR
   - restart coumadin with goal [**2-6**], currently subtheraputic, bridge with
   heparin
   HYPOTHYROIDISM
   - continue levothyroxine
   FEN:  NPO, HD today, TF consult
   ACCESS: Peripheral EJ IV and one peripheral IV, HD line, will likely
   need central access.
   PROPHYLAXIS:
   -DVT ppx with heparin gtt
   -Bowel regimen:  colace, senna
   CODE: Presumed full
   DISPO: CCU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2191-11-22**] 11:00 AM
   22 Gauge - [**2191-11-23**] 04:32 AM
   20 Gauge - [**2191-11-23**] 11:10 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2191-11-25 07:14:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   STEMI/Bacteremia
   24 Hour Events:
   Pt had episode of atrial tachycardia yesterday, resolved with IV
   Lopressor.  Pt initially switched to Ceftriaxone, spiked temp, switched
   back to Zosyn as pt has rare genus (Pantoea) growing, unknown MICs.
   Allergies:
   Hydralazine
   Nausea/Vomiting
   Opioid Analgesics
   Confusion/Delir
   Compazine (Injection) (Prochlorperazine Edisylate)
   Confusion/Delir
   Last dose of Antibiotics:
   Piperacillin - [**2191-11-23**] 12:17 PM
   Ceftriaxone - [**2191-11-24**] 02:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2191-11-24**] 06:00 PM
   Infusions:
   Heparin Sodium - 450 units/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2191-11-24**] 10:00 AM
   Adenosine - [**2191-11-24**] 10:30 AM
   Metoprolol - [**2191-11-24**] 10:30 AM
   Other medications:
   Atorvastatin 80mg
   ASA 300mg PR
   Midaz gtt
   Levothyroxine 100mcg
   Neprocaps
   SSI
   Hep gtt
   Zosyn 2.25g q12hrs
   Lopressor 12.4mg q6hrs
   Lansoprazole
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-11-25**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37.2
C (99
   HR: 71 (59 - 128) bpm
   BP: 132/44(74) {70/31(46) - 179/88(122)} mmHg
   RR: 20 (14 - 39) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 59 Inch
             Total In:
                                                                  1,545 mL
                                                                    324 mL
   PO:
             TF:
                                                                     83 mL
                                                                    138 mL
   IVF:
                                                                  1,283 mL
                                                                    186 mL
   Blood products:
   Total out:
                                                                  2,000 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -455 mL
                                                                    324 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 156 (156 - 500) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 16
   PIP: 26 cmH2O
   Plateau: 19 cmH2O
   Compliance: 35.7 cmH2O/mL
   SpO2: 99%
   ABG: 7.45/36/130/28/2
   Ve: 7.9 L/min
   PaO2 / FiO2: 325
   Physical Examination
   GEN: Intubated.  Responds to commands.  Breathing comfortably on vent.
     CV: RRR. nl S1 S2.  II/VII holosystolic murmur at LUSB without
   radiatation to carotids.
      P: Good airation bilaterally.  Mild Rales
    ABD: S NT ND
    EXT: 1+ edema
   NEUR: Moves all four extremities with command with grossly normal
   strength and sensation.
   Labs / Radiology
   337 K/uL
   9.7 g/dL
   103 mg/dL
   4.0 mg/dL
   28 mEq/L
   3.3 mEq/L
   23 mg/dL
   99 mEq/L
   141 mEq/L
   28.6 %
   20.0 K/uL
        [image002.jpg]
                            [**2191-11-23**]  05:35 AM
                            [**2191-11-23**]  05:40 AM
                            [**2191-11-23**]  03:43 PM
                            [**2191-11-24**]  03:31 AM
                            [**2191-11-24**]  01:31 PM
                            [**2191-11-24**]  03:11 PM
                            [**2191-11-24**]  03:46 PM
                            [**2191-11-24**]  04:16 PM
                            [**2191-11-24**]  10:19 PM
                            [**2191-11-25**]  05:39 AM
   WBC
   21.3
   20.0
   Hct
   30.0
   30.0
   28.6
   Plt
   366
   337
   Cr
   4.6
   6.1
   4.0
   TropT
   3.40
   2.85
   TCO2
   27
   30
   27
   27
   26
   26
   Glucose
   114
   96
   103
   Other labs: PT / PTT / INR:24.8/45.0/2.4, CK / CKMB /
   Troponin-T:56//2.85, ALT / AST:20/22, Alk Phos / T Bili:119/0.3,
   Differential-Neuts:93.2 %, Lymph:2.7 %, Mono:3.8 %, Eos:0.1 %, Lactic
   Acid:0.9 mmol/L, LDH:352 IU/L, Ca++:8.2 mg/dL, Mg++:2.0 mg/dL, PO4:3.5
   mg/dL
   Assessment and Plan
   74 yo W with PMH of DM, ESRD on HD, CVA, HTN presents with NSTEMI and
   pulmonary edema in setting of GNR bacteremia.
   PUMP: Evidence of pulmonary edema on CXR, likely source of SOB and
   hypoxemia in setting of acute infarct.  Echo shows normal EF,
   interatrial aneurysm present and mild regional left ventricular
   systolic dysfunction with focal hypokinesis of the distal inferior
   wall, distal septum and apex.
   Patient needs to have the dialysis line removed as she is not
   clinically improving, will have dialysis today to take off more fluid
   as pt will lose line, unclear if another one is going to be placed
   now.  Will hold BB and then reinstate as needed.
   HYPOXIC RESPIRATORY FAILURE:   Improving ABG.  Currently on pressure
   support with 40%FiO2.  ABG shows improvement in pO2, patient is
   candidate for extubation today.
   - Extubate today.
   - Abx with zosyn for HAP coverage.
   BACTEREMIA:  Likely secondary to pneumonia.  GNR in blood cultures,
   Pantoea spp, no MICs available.  Unclear if Pantoea is related to
   pneumonia or is a contaminant.  Renal recommends removing the dialysis
   catheter as WBC and fever curve is not improving.  Will dialyse today
   before removal of line.
   - Cont Zosyn
   - daily blood cultures.  NGTD since [**11-22**]
   CORONARIES:  Appears to have demand ischemia given infection.
   Originally thought to be NSTEMI based on elevated troponin well above
   baseline and new LBBB with ST elevations under criteria for STEMI in
   LBBB.  Given cath with severe flow-limiting lesions that appear
   chronic, more likely to be demand ischemia, especially given
   bacteremia.  Lesions on cath not amenable to PCI and will likely need
   CABG.  CT surgery is following, considers patient to be viable
   candidate once medically stable.
   - continue ASA, statin
   - restart bblocker when stable.
   RHYTHM: NSR currently.  Patient had episode of Atrial tachycardia,
   broke with IV Lopressor.
   - continue monitor on TELE
   - If pt has recurrence of rhythm, will give IV BB as needed;
   cardioversion if Hemodynamically unstable.
   ESRD on HD:
   - dialysis today
   - f/u renal recs
   - continue nephrocaps and calcium acetate
   DIABETES: Would aim for tight glucose control given sepsis picture.
   - Hold glipizide
   - ISS for now
   HISTORY OF STROKE:  Per family, patient has no residual deficits.  On
   coumadin at home.  INT 2.4 today.
   - discontinue heparin
   HYPOTHYROIDISM
   - continue levothyroxine
   FEN:  TF start today, HD today,
   ACCESS: HD line
   PROPHYLAXIS:
   -DVT ppx with heparin gtt
   -Bowel regimen:  colace, senna
   CODE: Presumed full
   DISPO: CCU
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2191-11-24**] 06:30 PM 20 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2191-11-22**] 11:00 AM
   20 Gauge - [**2191-11-23**] 11:10 AM
   Midline - [**2191-11-24**] 10:00 AM
   Arterial Line - [**2191-11-24**] 01:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2191-11-26 05:54:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2191-11-25**] 09:04 AM
 BLOOD CULTURED - At [**2191-11-25**] 10:00 AM
 DIALYSIS CATHETER - STOP [**2191-11-25**] 04:00 PM
   HD removal of 2 L IVF.
   ID consult recommended removal of HD line.  Line removed in IR.  Small
   portion of line cuff retained.  Transplant surgery was consulted and
   suggested that this cuff did not constitute a residual nidus of
   infection and did not need to be removed.  One hour following line
   removal, had transient rigors.
   Abx changed to meropenem per ID team concern for possibility of AmpC
   containing Pantoea.
   Tele: occasional missed beats, PVCs
   S: Feeling better.  No chest pain, sob, other complaints.
   Allergies:
   Hydralazine
   Nausea/Vomiting
   Opioid Analgesics
   Confusion/Delir
   Compazine (Injection) (Prochlorperazine Edisylate)
   Confusion/Delir
   Last dose of Antibiotics:
   Piperacillin - [**2191-11-23**] 12:17 PM
   Ceftriaxone - [**2191-11-24**] 02:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2191-11-24**] 06:00 PM
   Meropenem - [**2191-11-25**] 06:00 PM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2191-11-25**] 06:00 PM
   Lorazepam (Ativan) - [**2191-11-25**] 06:00 PM
   Heparin Sodium (Prophylaxis) - [**2191-11-26**] 12:11 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-11-26**] 05:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.9
C (98.4
   HR: 83 (71 - 119) bpm
   BP: 140/59(89) {119/40(67) - 175/81(111)} mmHg
   RR: 26 (17 - 31) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 59 Inch
             Total In:
                                                                  1,318 mL
                                                                     56 mL
   PO:
                                                                    240 mL
             TF:
                                                                     78 mL
   IVF:
                                                                    961 mL
                                                                     56 mL
   Blood products:
   Total out:
                                                                  2,000 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  -682  mL
                                                                     56 mL
   Respiratory support
   O2 Delivery Device: 4L  Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 376 (376 - 376) mL
   PS : 5 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: 7.36/43/116/28/-1
   Ve: 8 L/min
   PaO2 / FiO2: 290
   Physical Examination
   GEN: A&Ox3.  Pleasant and conversant.
     CV: RRR. nl S1 S2.  II/VII holosystolic murmur at LUSB without
   radiatation to carotids.
      P: Good airation bilaterally.  Mild Rales
    ABD: S NT ND
    EXT: 1+ edema
   NEUR: Moves all four extremities with command with grossly normal
   strength and sensation.
   Labs / Radiology
                                     137
                               [image002.gif]
                                     95
                               [image002.gif]
                                     17
   [image004.gif]
   149
                                                                   AGap=20
   [image005.gif]
   3.6
                               [image002.gif]
                                     26
                               [image002.gif]
                                     3.3
   [image007.gif]
   96
                                                                      23.6
                                                            [image007.gif]
                                    10.3
   [image004.gif]
   414
                 [image008.gif]
   [image004.gif]
                                    32.3
   [image007.gif]
   Mg: 1.7
   PT: 22.1
   PTT: 39.8
   INR: 2.1
                            [**2191-11-23**]  05:40 AM
                            [**2191-11-23**]  03:43 PM
                            [**2191-11-24**]  03:31 AM
                            [**2191-11-24**]  01:31 PM
                            [**2191-11-24**]  03:11 PM
                            [**2191-11-24**]  03:46 PM
                            [**2191-11-24**]  04:16 PM
                            [**2191-11-24**]  10:19 PM
                            [**2191-11-25**]  05:39 AM
                            [**2191-11-25**]  08:32 AM
   WBC
   20.0
   20.3
   Hct
   30.0
   28.6
   28.9
   Plt
   337
   358
   Cr
   6.1
   4.0
   TropT
   2.85
   3.33
   TCO2
   27
   30
   27
   27
   26
   26
   25
   Glucose
   96
   103
   Other labs: PT / PTT / INR:24.8/45.0/2.4, CK / CKMB /
   Troponin-T:56//3.33, ALT / AST:20/22, Alk Phos / T Bili:119/0.3,
   Differential-Neuts:93.2 %, Lymph:2.7 %, Mono:3.8 %, Eos:0.1 %, Lactic
   Acid:0.9 mmol/L, LDH:352 IU/L, Ca++:8.2 mg/dL, Mg++:2.0 mg/dL, PO4:3.5
   mg/dL
Micro:
6/6 bottles from [**11-22**], no growth since.
Blood Culture, Routine (Final [**2191-11-25**]):
      PANTOEA SPECIES.    FINAL SENSITIVITIES.  CIPROFLOXACIN <=0.5 MCG/ML.
         MEROPENEM <=1 MCG/ML.
                              SENSITIVITIES: MIC expressed in MCG/ML
                      _________________________________________________________
                             PANTOEA SPECIES
                             |
CEFTAZIDIME-----------   <=2 S
CEFTRIAXONE-----------   <=4 S
CIPROFLOXACIN---------       S
GENTAMICIN------------   <=1 S
MEROPENEM-------------       S
PIPERACILLIN----------   <=8 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=2 S
Sputum (ET Tube):
GRAM STAIN (Final [**2191-11-22**]):
      [**10-29**] PMNs and <10 epithelial cells/100X field.
   RESPIRATORY CULTURE (Final [**2191-11-25**]):
      SPARSE GROWTH OROPHARYNGEAL FLORA.
      GRAM NEGATIVE ROD(S).    SPARSE GROWTH.
         CONSISTENT WITH OROPHARYNGEAL FLORA.
CXR: Improved bibasilar atelectasis with persistent small left pleural effusion.
   Assessment and Plan
   74 yo W with PMH of DM, ESRD on HD, CVA, HTN presents with NSTEMI and
   pulmonary edema in setting of GNR bacteremia.
   BACTEREMIA:  Pantoea spp in multiple cultures, likely a line-associated
   infection.  Unclear if Pantoea is related to pneumonia.  Renal
   recommends removing the dialysis catheter as WBC and fever curve is not
   improving.
   - Plan to have line holiday over weekend and replace line on Monday.
   - Cont Meropenem for 2 week course, will need PICC placed as well.
   - blood cultures today for surveilence.  NGTD since [**11-22**]
   PUMP: Evidence of pulmonary edema on CXR, likely source of SOB and
   hypoxemia in setting of acute infarct.  Echo shows normal EF,
   interatrial aneurysm present and mild regional left ventricular
   systolic dysfunction with focal hypokinesis of the distal inferior
   wall, distal septum and apex.
   - Increasing hypotension with resolution of sepsis.  Will uptitrate BB
   as necessary and add back ACE.
   HYPOXIC RESPIRATORY FAILURE:   Marked improvement in resp status
   following Abx and diuresis, now -1L for LOS.  Patient extubated without
   difficulties.
   - Continue meropenem for PNA coverage
   - Avoid excessive volume overload
   CORONARIES:  Appears to have demand ischemia given infection.
   Originally thought to be NSTEMI based on elevated troponin well above
   baseline and new LBBB with ST elevations under criteria for STEMI in
   LBBB.  Given cath with severe flow-limiting lesions that appear
   chronic, more likely to be demand ischemia, especially given
   bacteremia.  Lesions on cath not amenable to PCI and will likely need
   CABG.  CT surgery is following, considers patient to be viable
   candidate once medically stable.
   - continue ASA, statin, beta-blocker, ACE
   RHYTHM: NSR currently.  Patient had episode of Atrial tachycardia,
   broke with IV Lopressor.
   - continue monitor on TELE
   - If pt has recurrence of rhythm, will give IV BB as needed;
   cardioversion if Hemodynamically unstable.
   ESRD on HD:
   - f/u renal recs
   - continue nephrocaps and calcium acetate
   DIABETES: Would aim for tight glucose control given sepsis picture.
   - Hold glipizide
   - ISS for now
   HISTORY OF STROKE:  Per family, patient has no residual deficits.  On
   coumadin at home.  INT > 2
   - no heparin for now
   HYPOTHYROIDISM
   - continue levothyroxine
   FEN:  Diabetic, cardiac diet, HD monday,
   ACCESS: HD line to be placed Monday
   PROPHYLAXIS:
   -DVT ppx with heparin gtt
   -Bowel regimen:  colace, senna
   CODE: Presumed full
   DISPO: CCU
   . IV access: Mid-line, heparin dependent Location: Right Antecubital,
   Date inserted: [**2191-11-24**] Order date: [**11-25**] @ 0930
   12. Insulin SC  (per Insulin Flowsheet)
         Sliding Scale Order date: [**11-22**] @ 1241
   2. IV access: Dialysis Catheter (Tunneled 2-Lumen) Location: Left
   Subclavian Order date: [**11-25**] @ 0930
   13. Levothyroxine Sodium 100 mcg PO DAILY  Order date: [**11-22**] @ 1241
   3. Acetaminophen 325-650 mg PO Q6H:PRN Fever, pain  Order date: [**11-26**] @
   0911
   14. Lorazepam 0.5-1 mg PO/IV ONCE MR1 Duration: 1 Doses Order date:
   [**11-25**] @ 1757
   4. Aspirin EC 325 mg PO DAILY  Order date: [**11-26**] @ 1009
   15. Lorazepam 0.5 mg PO Q6H:PRN Anxiety  Order date: [**11-26**] @ 0910
   5. Atorvastatin 80 mg PO DAILY  Order date: [**11-22**] @ 1653
   16. Meropenem 500 mg IV Q12H
   Start date [**2191-11-25**]  Order date: [**11-25**] @ 1638
   6. Captopril 12.5 mg PO TID
   hold for sbp <90  Order date: [**11-26**] @ 0921
   17. Metoprolol Tartrate 5 mg IV ONCE Duration: 1 Doses Order date:
   [**11-25**] @ 1755
   7. Heparin 5000 UNIT SC TID  Order date: [**11-25**] @ 0908
   18. Metoprolol Tartrate 25 mg PO ONCE Duration: 1 Doses Order date:
   [**11-26**] @ 0401
   8. Heparin Flush (10 units/ml) 2 mL IV PRN line flush
   Mid-line, heparin dependent: Flush with 10 mL Normal Saline followed by
   Heparin as above, daily and PRN per lumen.  Order date: [**11-25**] @ 0930
   19. Metoprolol Tartrate 25 mg PO TID
   Hold for HR < 60, SBP < 100  Order date: [**11-26**] @ 0912
   9. Heparin Flush (5000 Units/mL) 4000-[**Numeric Identifier **] UNIT DWELL PRN line flush
   Dialysis Catheter (Tunneled 2-Lumen): DIALYSIS NURSE ONLY: Withdraw 4
   mL prior to flushing with 10 mL NS followed by Heparin as above
   according to volume per lumen.  Order date: [**11-25**] @ 0930
   20. Nephrocaps 1 CAP PO DAILY  Order date: [**11-22**] @ 1241
   10. IV access request: Midline Evaluate Urgency: Routine Order date:
   [**11-23**] @ 0927
   21. Pantoprazole 40 mg PO Q24H  Order date: [**11-26**] @ 0909
   11. Influenza Virus Vaccine 0.5 mL IM ASDIR
   Follow Influenza Protocol Document administration in POE   Order date:
   [**11-22**] @ 1059